US04208430
3,4-Dichlorophenethyl chloride (0.8 g., 0.004 mol.) and thiourea (0.26 g., 0.0035 mol.) in 25 ml. of ethanol were refluxed for two days. The mixture was concentrated and the residue treated with ether to give a solid which was recrystallized from acetone to yield carbamimidothioic acid 3,4-dichlorophenethyl ester, m.p. 135°-139° C.

reactant | 3,4-Dichlorophenethyl chloride | 0.004 mol, 0.8 g | ClC=1C=C(CCCl)C=CC1Cl | C8H7Cl3
reactant | thiourea | 0.0035 mol, 0.26 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | carbamimidothioic acid 3,4-dichlorophenethyl ester | ClC=1C=C(CCSC(N)=N)C=CC1Cl | C9H10Cl2N2S
